US08431575B2
{4-[6-Butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-1-methyl-piperidin-3-yl}-methanol dihydrochloride
The {4-[6-Butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-1-methyl-piperidin-3-yl}-methanol was dissolved in 4.0 M HCl in dioxane (2 mL) and evaporated the solvent, dried to provide the title compound (26 mg). LCMS: m/z 455 [M+1]. 1H NMR (400 MHz, CD3OD) δ 7.32 (2H, d), 7.03 (2H, d), 6.99 (1H, s), 5.58 (1H, s), 4.44-4.38 (1H, m), 3.66-3.62 (1H, m), 3.58-3.49 (1H, m), 2.96-2.80 (4H, m), 2.63-2.20 (7H, m), 2.08-1.90 (3H, m), 1.88-1.78 (2H, m), 1.62-1.20 (11H, m), 0.79 (3H, t).

reactant | {4-[6-Butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-1-methyl-piperidin-3-yl}-methanol | C(CCC)C1=C(C=C(N=N1)OC1C(CN(CC1)C)CO)C1=CC=C(C=C1)OC1CCCCC1 | C27H39N3O3
reactant | HCl | 4.0 M | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | {4-[6-Butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-1-methyl-piperidin-3-yl}-methanol dihydrochloride | 26 mg | Cl.Cl.C(CCC)C1=C(C=C(N=N1)OC1C(CN(CC1)C)CO)C1=CC=C(C=C1)OC1CCCCC1 | InChI=1S/C27H39N3O3.2ClH/c1-3-4-10-25-24(20-11-13-23(14-12-20)32-22-8-6-5-7-9-22)17-27(29-28-25)33-26-15-16-30(2)18-21(26)19-31;;/h11-14,17,21-22,26,31H,3-10,15-16,18-19H2,1-2H3;2*1H
